US05675005
2. 2-Carboxy-8,8-dimethyl-6,10-dioxaspiro[4,5]decane
72.8 g (0.70 mole) of 2,2-dimethylpropane-1,3-diol and 12.2 g (0.05 mole) of pyridinium-4-toluenesulphonate are added one after another to 40.0 g (0.28 mole) of methyl 3-oxocyclopentane carboxylate OCCME in 560 ml of absolute toluene. The mixture is boiled for 1.5 hours in a water separator; after 30 minutes the solid is dissolved. Approximately 8 ml of H2O in total are separated out. After cooling, the solution is washed three times using 100 ml of H2O each time, the toluene phase is dried over MgSO4 and evaporated in vacuo. The oily residue is fractionally distilled in vacuo at 0.6 mbar over a metallised pin tube column 20 cm long.

reactant | 2,2-dimethylpropane-1,3-diol | 0.70 mole, 72.8 g | CC(CO)(CO)C | C5H12O2
reactant | pyridinium 4-toluenesulphonate | 0.05 mole, 12.2 g | [NH+]1=CC=CC=C1.C1(=CC=C(C=C1)S(=O)(=O)[O-])C
reactant | methyl 3-oxocyclopentane carboxylate | 0.28 mole, 40.0 g | O=C1CC(CC1)C(=O)OC | C7H10O3
reactant | water | O | H2O
solvent | toluene | 560 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Carboxy-8,8-dimethyl-6,10-dioxaspiro[4,5]decane | C(=O)(O)C1CC2(CC1)OCC(CO2)(C)C | C11H18O4
